US03974278
7.6 g of 4-methylmercaptobenzaldehyde, 16 g of γ-methoxyacetoacetic acid ethyl ester and 6 ml of aqueous concentrated ammonia in 30 ml of ethanol are heated to the boil for 6-8 hours, and 2,6-dimethoxymethyl-4-(4'-methylmercaptophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester is obtained in the form of beige crystals of melting point 136°-138°C.

reactant | 4-methylmercaptobenzaldehyde | 7.6 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | γ-methoxyacetoacetic acid ethyl ester | 16 g | C(C)OC(CC(=O)COC)=O | C7H12O4
reactant | ammonia | 6 ml | N | H3N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2,6-dimethoxymethyl-4-(4'-methylmercaptophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 50% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=C(C=C1)SC)C(=O)OCC)COC)COC | C22H29NO6S
